US08809539B2
A mixture of piperidine-1,3,3-tricarboxylic acid 1-(2,2,2-trichloroethyl) 3-benzyl 3-(3,3-dimethyl-2-oxobutyl)ester (1.6 g 3 mmol) and zinc (10.5 g 0.16 mol) in a mixture of tetrahydrofurane (25 mL) and 1M aqueous solution of ammonium acetate (13 mL) is stirred overnight at room temperature, diluted with tetrahydrofurane (20 mL) and filtrated over clarcel. The filtrate is diluted with dichloromethane, washed with water dried over magnesium sulfate and concentrated under reduced pressure to give piperidine-3,3-dicarboxylic acid 3-benzyl 3-(3,3-dimethyl-2-oxobutyl)ester as an oil

reactant | piperidine-1,3,3-tricarboxylic acid 1-(2,2,2-trichloroethyl) 3-benzyl 3-(3,3-dimethyl-2-oxobutyl)ester | 3 mmol, 1.6 g | CC(C(COC(=O)C1(CN(CCC1)C(=O)OCC(Cl)(Cl)Cl)C(=O)OCC1=CC=CC=C1)=O)(C)C | C23H28Cl3NO7
reactant | ammonium acetate | 13 mL | C(C)(=O)[O-].[NH4+]
solvent | tetrahydrofurane | 25 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 20 mL | O1CCCC1 | C4H8O
catalyst | zinc | 0.16 mol, 10.5 g | [Zn] | Zn
product | piperidine-3,3-dicarboxylic acid 3-benzyl 3-(3,3-dimethyl-2-oxobutyl)ester | CC(C(COC(=O)C1(CNCCC1)C(=O)OCC1=CC=CC=C1)=O)(C)C | C20H27NO5
